US07915424B2
3-Chloro-5-(4-fluoro-3-methylphenylethynyl)-pyridine
Add 4-ethynyl-1-fluoro-2-methylbenzene (0.56 g, 4.21 mmol), triethylamine (2.2 mL, 15 mmol), copper (I) iodide (36 mg, 0.19 mmol), and bis(triphenylphosphine)palladium (II) dichloride (110 mg, 0.15 mmol) to a solution of trifluoromethanesulfonic acid 5-chloropyridin-3-yl ester, (prepared as described in PREPARATION 25), (1.0 g, 3.8 mmol) in ethyl acetate (5 mL) under nitrogen. Heat the at 70° C. for 16 h and concentrate. Purify by silica gel chromatography, eluting with 100% dichloromethane, followed by a second silica gel chromatography eluting with 50:50 to 60:40 dichloromethane:hexanes, to give the title compound as a light yellow solid (410 mg, 44%).

reactant | 4-ethynyl-1-fluoro-2-methylbenzene | 4.21 mmol, 0.56 g | C(#C)C1=CC(=C(C=C1)F)C | C9H7F
reactant | triethylamine | 15 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid 5-chloropyridin-3-yl ester | 3.8 mmol, 1.0 g | ClC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3ClF3NO3S
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.19 mmol, 36 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.15 mmol, 110 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Chloro-5-(4-fluoro-3-methylphenylethynyl)-pyridine | 410 mg, 44% | ClC=1C=NC=C(C1)C#CC1=CC(=C(C=C1)F)C | C14H9ClFN
